US06455528B1
Synthesis of N-(1-Methyl-1-(4-((4-(2,4-difluorophenyl)piperazin-1-yl)methyl)phenyl)ethyl)acetamide Hydrochloride 1/4 Hydrate
By similar reaction and treatment to that in Example 1(5) using 1-(2,4-difluorophenyl)piperazine dihydrochloride instead of phenylpiperazine and N-(1-(4-chloromethylphenyl)-1-methylethyl)acetamide instead of N-(4-chloromethylphenylmethyl)acetamide, the title compound was obtained as pale-brown crystals.

reactant | 1-(2,4-difluorophenyl)piperazine dihydrochloride | Cl.Cl.FC1=C(C=CC(=C1)F)N1CCNCC1
reactant | N-(1-(4-chloromethylphenyl)-1-methylethyl)acetamide | ClCC1=CC=C(C=C1)C(C)(C)NC(C)=O | C12H16ClNO
product | N-(1-Methyl-1-(4-((4-(2,4-difluorophenyl)piperazin-1-yl)methyl)phenyl)ethyl)acetamide Hydrochloride | Cl.CC(C)(C1=CC=C(C=C1)CN1CCN(CC1)C1=C(C=C(C=C1)F)F)NC(C)=O | InChI=1S/C22H27F2N3O.ClH/c1-16(28)25-22(2,3)18-6-4-17(5-7-18)15-26-10-12-27(13-11-26)21-9-8-19(23)14-20(21)24;/h4-9,14H,10-13,15H2,1-3H3,(H,25,28);1H
